US07199274B2
4-(4-tert-butylphenyl)-2-methylindan-2-ol
633 mg (26 mmol, 4 eq.) of Mg powder (50 mesh/Aldrich) were dried under reduced pressure with the aid of a hair dryer. 10 ml of THF and 10 drops of 1,2-dibromoethane were added. The mixture was heated to reflux until gas evolution took place and the activation was complete. The solvent was removed under reduced pressure and 10 ml of fresh THF were added. A solution of 2.0 g (6.5 mmol) of tert-butyl-2,3-bis(chloromethyl)biphenyl in 120 ml of THF was added and the suspension was stirred vigorously at room temperature for 3 hours. Stirring was continued overnight and the slightly greenish turbid solution obtained was filtered to remove excess magnesium. The filtrate was cooled to −78° C. and a solution of 482 mg (6.51 mol) of methyl acetate in 60 ml of THF was added dropwise over a period of 1 hour. The reaction solution was warmed to 0° C. over a period of 2 hours. 80 ml of water were subsequently added and the solution was concentrated under reduced pressure. To dissolve the magnesium salts, 3 ml of concentrated hydrochloric acid were added and the aqueous phase was extracted with methylene chloride (3×50 ml). The combined organic phases were dried over magnesium sulfate, and the solvent was subsequently removed under reduced pressure. The product was purified by column chromatography, with the nonpolar by-products being separated off using a heptane/dichloromethane mixture and the product being eluted with pure dichloromethane, giving a yellow product. Yield: 0.64 g (2.28 mmol/35%/94.5% by GC). 1H NMR (400 MHz, CDCl3): δ=7.43–7.22 (m, 7H, aromat.), 3.08 (m, 4H, CH2), 1.48 (s, 3H, CH3), 1.35 (s, 9H, tert-butyl) ppm.

reactant | tert-butyl-2,3-bis(chloromethyl)biphenyl | 6.5 mmol, 2.0 g | C(C)(C)(C)C1=C(C(=C(C=C1)C1=CC=CC=C1)CCl)CCl | C18H20Cl2
reactant | methyl acetate | 6.51 mol, 482 mg | C(C)(=O)OC | C3H6O2
reactant | water | 80 ml | O | H2O
catalyst | 1,2-dibromoethane | 10 drops | BrCCBr | C2H4Br2
solvent | THF | 120 ml | C1CCOC1 | C4H8O
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 4-(4-tert-butylphenyl)-2-methylindan-2-ol | C(C)(C)(C)C1=CC=C(C=C1)C1=C2CC(CC2=CC=C1)(O)C | C20H24O
